US06245761B1
Preparation of 1-methoxy-4-(2-fluoro-5-bromobenzyloxy)butane
A solution of 4-(2-fluoro-5-bromobenzyloxy)butanol (897 mg, 3.24 mmol) in tetrahydrofuran (22 ml) was cooled to −40° C. and then treated with potassium t-butoxide (3.56 ml of a 1 M solution in tetrahydrofuran, 3.56 mmol). The resulting orange solution was stirred for thirty minutes, cooled to −78° C. and treated with methyl iodide (0.40 ml, 6.48 mmol). The reaction was warmed to 0° C. and stirred for 1.5 hours. The reaction mixture was then partitioned between methylene chloride and saturated sodium bicarbonate. The organic fraction was dried over sodium sulfate, and the solvents were removed in vacuo. The desired title intermediate was further purified by high performance liquid chromatography to yield 687 mg (73%) as a clear oil.

reactant | 4-(2-fluoro-5-bromobenzyloxy)butanol | 3.24 mmol, 897 mg | FC1=C(COCCCCO)C=C(C=C1)Br | C11H14BrFO2
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
reactant | methyl iodide | 6.48 mmol, 0.40 ml | CI | CH3I
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | 1-methoxy-4-(2-fluoro-5-bromobenzyloxy)butane | COCCCCOCC1=C(C=CC(=C1)Br)F | C12H16BrFO2
